US05869485
4.0 g of potassium tertiary butoxide are dissolved in 80 ml of ethanol and subsequently first 3.0 g of malononitrile and then 9 g of 2'-phenylamino-2-chloroacetophenone are added at RT and the mixture is stirred at 65° C. for 2 h. The mixture is then cooled and concentrated in an RE. The residue is partitioned between water and methylene chloride and the aqueous phase is extracted once more with methylene chloride. The combined organic phases are dried over MgSO4 and concentrated. The product is chromatographed on silica gel using methylene chloride and the product-containing fractions are concentrated, 4-(2-chlorophenyl)-1-phenyl-2-amino-3-cyanopyrrole being obtained as a reddish, viscous oil which is directly further processed.

reactant | potassium tertiary butoxide | 4.0 g | CC(C)([O-])C.[K+]
reactant | malononitrile | 3.0 g | C(CC#N)#N | C3H2N2
reactant | 2'-phenylamino-2-chloroacetophenone | 9 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)C(CCl)=O | C14H12ClNO
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-(2-chlorophenyl)-1-phenyl-2-amino-3-cyanopyrrole | ClC1=C(C=CC=C1)C=1C(=C(N(C1)C1=CC=CC=C1)N)C#N | C17H12ClN3
